US04173478
Dye D: N-[3-(1-Acetyl-6-methyl-1H-pyrazolo[3,2-c]-s-triazol-3-yl)-4-methoxyphenyl]-2-hydroxy-5-(4-methoxyphenylazo)benzamide
5-(4-Methoxyphenylazo)salicoyl chloride and 1-acetyl-3-(5-amino-2-methoxyphenyl)-6-methyl-1H-pyrazolo[3,2-c]-s-triazole were reacted together as described for the preparation of Dye 7. The product crystallized as the monohydrate from aqueous pyridine, m.p. 282°-3°, λmax (methanol)=350 nm.

reactant | 5-(4-Methoxyphenylazo)salicoyl chloride | COC1=CC=C(C=C1)N=NC1=CC=C(C(C(=O)Cl)=C1)O | C14H11ClN2O3
reactant | 1-acetyl-3-(5-amino-2-methoxyphenyl)-6-methyl-1H-pyrazolo[3,2-c]-s-triazole | C(C)(=O)N1N=C(N2C1=CC(=N2)C)C2=C(C=CC(=C2)N)OC | C14H15N5O2
product | N-[3-(1-Acetyl-6-methyl-1H-pyrazolo[3,2-c]-s-triazol-3-yl)-4-methoxyphenyl]-2-hydroxy-5-(4-methoxyphenylazo)benzamide | C(C)(=O)N1N=C(N2C1=CC(=N2)C)C=2C=C(C=CC2OC)NC(C2=C(C=CC(=C2)N=NC2=CC=C(C=C2)OC)O)=O | C28H25N7O5
